US04256739
A solution of 0.96 g (1.62 mmols) of 7β-phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester and 0.26 ml (2.43 mmols) of anisole in 9.6 ml of methylene chloride is stirred with 1.24 ml (16.2 mmols) of trifluoroacetic acid for 30 minutes at 0° C. and the mixture is treated with 50 ml of cold toluene and evaporated in vacuo and the residue is dried in a high vacuum. The residue is digested with diethyl ether, filtered off, rinsed with the same solvent and dried in vacuo. 7β-Phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid is obtained as a microcrystalline, colourless powder which can be recrystallised from acetone/methylene chloride/diethyl ether. Melting point 190° C. (decomposition). Thin layer chromatogram (silica gel): Rf ~0.60 (n-butanol/pyridine/acetic acid/H2O, 40:24:6:30); UV spectrum (ethanol): λmax =263 nm (ε=7000); 305 nm (ε=9000); IR spectrum (nujol): characteristic bands at 3.02; 5.59; 5.81; 6.01; 6.22 and 6.48μ.

reactant | 7β-phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.62 mmols, 0.96 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C2=CC=CC=C2 | C34H28N2O3S2
reactant | anisole | 2.43 mmols, 0.26 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 16.2 mmols, 1.24 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 9.6 ml | C(Cl)Cl | CH2Cl2
product | 7β-Phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2=CC=CC=C2)C(=S)O)C1=O | C21H18N2O3S2
